US07691882B2
3-(3-(5-(4-Fluoro-phenoxy)-thiophen-2-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (5.00 mL) solution of (5-(4-fluoro-phenoxy)-thiophen-2-yl)-acetohydroximoyl chloride (250 mg, 0.875 mmol) described in Manufacturing Example 91-1-4 and 3-ethynyl-pyridin-2-ylamine (50.0 mg, 0.423 mmol) described in Manufacturing Example 1-2-3 was added triethylamine (177 μL, 1.27 mmol) at room temperature, which was stirred for 30 minutes at 60° C. Water was added to the reaction solution at room temperature, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:2→1:1) to obtain the title compound (11.2 mg, 7.21%).

reactant | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
reactant | (5-(4-fluoro-phenoxy)-thiophen-2-yl)-acetohydroximoyl chloride | 0.875 mmol, 250 mg | FC1=CC=C(OC2=CC=C(S2)CC(=NO)Cl)C=C1 | C12H9ClFNO2S
reactant | 3-ethynyl-pyridin-2-ylamine | 0.423 mmol, 50.0 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | triethylamine | 1.27 mmol, 177 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(5-(4-Fluoro-phenoxy)-thiophen-2-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine | 11.2 mg, 7.21% | FC1=CC=C(OC2=CC=C(S2)CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C19H14FN3O2S
